US06545161B2
Preparation of 2-amino-6-chloro-4-fluoro-3-(tetrahydrophthalimido)phenol (Compound no. 8-2)
Iron powder (2.48 g) was added into a solution of 6-chloro-4-fluoro-2-nitro-3-(tetrahydrophthalimido)phenol (3.67 g) in acetic acid (60 ml) and stirred at room temperature for two hours. The reaction mixture was diluted with ethyl acetate, washed with water, dried over anhydrous sodium sulfate, evaporated to give 3.6 g of the title compound.

reactant | 6-chloro-4-fluoro-2-nitro-3-(tetrahydrophthalimido)phenol | 3.67 g | ClC1=CC(=C(C(=C1O)[N+](=O)[O-])N1C(C2C(C1=O)CCC=C2)=O)F | C14H10ClFN2O5
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Iron | 2.48 g | [Fe] | Fe
product | 2-amino-6-chloro-4-fluoro-3-(tetrahydrophthalimido)phenol | 3.6 g | NC1=C(C(=CC(=C1N1C(C2C(C1=O)CCC=C2)=O)F)Cl)O | C14H12ClFN2O3
